US04775671
A mixture of 4.7 g (12 mmol) of t-butyl (S)-8-chloro-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate and 24 ml of 1N hydrochloric acid is heated to boiling under reflux for 1.5 hours. The mixture is then cooled to about 5°, the product is filtered off under suction, rinsed with water and dried at 85° in vacuo. There is obtained (S)-8-chloro-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid of decomposition point 261°-263°.

reactant | t-butyl (S)-8-chloro-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 12 mmol, 4.7 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O)F | C19H19ClFN3O3
reactant | hydrochloric acid | 1N, 24 ml | Cl | ClH
product | (S)-8-chloro-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O)CCC1)=O)F | C15H11ClFN3O3
